US08648041B2
Preparation of 3-Hydroxy-benzoic acid tert-butyl ester
A mixture of 3-hydroxybenzoic acid (55.0 g, 400 mmol), di-tert-butyl dicarbonate (178 g, 820 mmol), magnesium perchlorate (0.89 g, 4.0 mmol) and dry nitromethane (750 mL) was stirred at 40° C. for 96 hrs. Ethyl acetate (800 mL) was added and the organic layer was washed with 5% aqueous solution of sodium bicarbonate (1500 mL). The organic solution was dried over anhydrous magnesium sulfate and then evaporated in vacuo. The residue was submitted to column chromatography (silica gel Fluke 60, hexanes/ethyl acetate 8:1) affording the title compound as white solid.

reactant | 3-hydroxybenzoic acid | 400 mmol, 55.0 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | di-tert-butyl dicarbonate | 820 mmol, 178 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | magnesium perchlorate | 4.0 mmol, 0.89 g | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
reactant | nitromethane | 750 mL | [N+](=O)([O-])C | CH3NO2
solvent | Ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
product | 3-Hydroxy-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=CC=C1)O)=O | C11H14O3
